US06949542B2
8-Methyl-4-(3-pyrimidin-5-yl-phenyl)-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {4-methyl-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M97) (0.43 g, 0.84 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light red solid (230 mg, 69%).

reactant | {4-methyl-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.84 mmol, 0.43 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)C)NC(CC(C1=CC(=CC=C1)C=1C=NC=NC1)=O)=O)=O | C26H25F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Methyl-4-(3-pyrimidin-5-yl-phenyl)-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=NC2)=O)C1)C(F)(F)F | C21H15F3N4O
